US07863271B2
To (S)-4-tert-butyloxycarbonyl-2-tert-butylpiperazine (640 mg, 2.6 0 mmol) in DME (10 mL) at room temperature, was added NaH (60% suspension in mineral oil, 115 mg, 3.50 mmol) and the mixture was stirred for 45 min. Methyl 2-chlorobenzoxazole-4-carboxylate (780 mg, 3.69 mmol) was added to the reaction mixture and the reaction was stirred at room temperature for 3d and at 55° C. for 24 h. The reaction mixture was quenched with CH3OH (10 mL), silica gel (15 mL) was added, and solvent removed under reduced pressure. The residue was purified by column chromatography (silica gel, 33% EtOAc in hexanes) to afford (S)-methyl 2-(4-tert-butyloxycarbonyl-2-tert-butyl-piperazin-1-yl)benzoxazole-4-carboxylate (0.42 g, 39%) as a yellow solid. 1H NMR and MS consistent.

reactant | (S)-4-tert-butyloxycarbonyl-2-tert-butylpiperazine | 0 mmol, 640 mg | C(C)(C)(C)OC(=O)N1C[C@@H](NCC1)C(C)(C)C | C13H26N2O2
reactant | NaH | 3.50 mmol, 115 mg | [H-].[Na+]
reactant | Methyl 2-chlorobenzoxazole-4-carboxylate | 3.69 mmol, 780 mg | ClC=1OC=2C(N1)=C(C=CC2)C(=O)OC | C9H6ClNO3
solvent | DME | 10 mL | COCCOC | C4H10O2
product | (S)-methyl 2-(4-tert-butyloxycarbonyl-2-tert-butyl-piperazin-1-yl)benzoxazole-4-carboxylate | 0.42 g, 39% | C(C)(C)(C)OC(=O)N1C[C@@H](N(CC1)C=1OC=2C(N1)=C(C=CC2)C(=O)OC)C(C)(C)C | C22H31N3O5
